US06140494
6-Bromo-3-oxahexanoic acid
To a stirred solution of glycolic acid (2.03 g, 26 mmol) and 1,3-dibromopropane (6.41 g, 32 mmol) in THF (50 ml) was added sodium hydride (1.56 g, 65 mmol). This was stirred at room temperature for 16 h. The reaction mixture was quenched with dilute HCl (1.0 M, 100 ml) and then extracted into chloroform (3×50 ml). This was then washed with brine, dried, filtered and evaporated to dryness in vacuo. The residue was purified by chromatography (SiO2, CHCl3 /MeOH) to yield the title compound (2.91 g, 57%).

reactant | glycolic acid | 26 mmol, 2.03 g | C(CO)(=O)O | C2H4O3
reactant | 1,3-dibromopropane | 32 mmol, 6.41 g | BrCCCBr | C3H6Br2
reactant | sodium hydride | 65 mmol, 1.56 g | [H-].[Na+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 6-Bromo-3-oxahexanoic acid | 2.91 g, 57% | BrCCCOCC(=O)O | C5H9BrO3
